US05866560
6.3 g of methylamine is condensed in a pressure pipe while being cooled with ice in a solution of 8.2 g of 17β-acetoxy-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulfonyloxypentyl)-estra-1,3,5(10)-triene in 80 ml of tetrahydrofuran. The closed pressure pipe is then heated for 6 hours to 60° C. After cooling, it is evaporated to dryness in a vacuum, and the residue is chromatographed on silica gel. 5.1 g of 17β-acetoxy-7α-(5-methylaminopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene is obtained as oil. [α]D22 =+29.7°(c=0.535% in chloroform)

reactant | methylamine | 6.3 g | CN | CH5N
reactant | 17β-acetoxy-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulfonyloxypentyl)-estra-1,3,5(10)-triene | 8.2 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)CCCCCOS(=O)(=O)C2=CC=C(C=C2)C | C37H50O7S
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 17β-acetoxy-7α-(5-methylaminopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene | 5.1 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC2OCCCC2)CCCCCNC | C31H47NO4
